US08486919B2
1,3-Bisphosphonooxy-4-cyclohexylbenzene (Compound 3)
To an ethanol solution (10 ml) of 1,3-bis(dibenzylphosphonooxy)-4-cyclohexylbenzene (1.75 g), 5% palladium-carbon (50% water-containing product) (256 mg) was added and stirred under a hydrogen atmosphere at room temperature for 14 hours. After the removal of the catalyst by filtration, the filtrate was concentrated, to give the light yellow title compound (805 mg, yield: 93%).

reactant | 1,3-bis(dibenzylphosphonooxy)-4-cyclohexylbenzene | 1.75 g | C(C1=CC=CC=C1)OP(=O)(OCC1=CC=CC=C1)OC1=CC(=C(C=C1)C1CCCCC1)OP(=O)(OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C40H42O8P2
catalyst | palladium-carbon | 256 mg | [C].[Pd]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1,3-Bisphosphonooxy-4-cyclohexylbenzene | 805 mg, yield: 93% | P(=O)(O)(O)OC1=CC(=C(C=C1)C1CCCCC1)OP(=O)(O)O | C12H18O8P2
